US06756374B2
4-(3-Hydroxypropyl)-1-(4-isothiocyanatophenyl)piperazine
This compound was prepared from 4-(4-nitrophenyl)-1-piperazine-propanol (which can be prepared according to the procedure of Loewe and Mieth Arzneim.-Forsch. 1966, 16, 1306-1310) using the hydrogenation and isothiocyanate-forming reactions used in Example 4. MS (ES) MH+=277.

reactant | 4-(4-nitrophenyl)-1-piperazine-propanol | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)CCCO | C13H19N3O3
reactant | isothiocyanate | [N-]=C=S
product | 4-(3-Hydroxypropyl)-1-(4-isothiocyanatophenyl)piperazine | OCCCN1CCN(CC1)C1=CC=C(C=C1)N=C=S | C14H19N3OS
